US05037833
Anthranilonitrile (2.40 g) was mixed together with norcamphor (4.40 g) and then 4.0 g of freshly fused ZnCl2 was added and the reaction mixture was heated at 120° C. After 1.5 hours it became so thick that it could not be stirred, so 10 ml of 1,2-dichloroethane was added and the reaction mixture was refluxed for 1 hour. At the end of this time, 40 ml of 10% NaOH was added and the mixture was stirred overnight. It was then extracted several times with 2-butanone which gave a crude product that was purified by flash chromatography (EtOAc, then 5% Et2NH/EtOAc) to give 3.04 g of foam. Recrystallization from CH2Cl2 /pentane gave 2.30 g of analytically pure product, m.p. 186°-188°.

reactant | Anthranilonitrile | 2.40 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | norcamphor | 4.40 g | C1CC2CC1CC2=O | C7H10O
reactant | NaOH | 40 ml | [OH-].[Na+]
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | Et2NH EtOAc | 5% | N(CC)CC.CCOC(=O)C | InChI=1S/C4H11N.C4H8O2/c1-3-5-4-2;1-3-6-4(2)5/h5H,3-4H2,1-2H3;3H2,1-2H3
